US06090809
Preparation of 1-[4-(2-methoxyphenyl)piperazin-1-yl]-3-[2,5-dioxopyrrolidin-1-yl]propane (Compound No. 2)
Scheme-I: A mixture of 2,5-dioxopyrrolidine (3.68 g, 37.24 mmol), 1-[4-(2-methoxyphenyl)-piperazin-1-yl]-3-chloropropane (10.0 g, 37.24 mmol), potassium carbonate (7.70 g, 55.8 mmol) and tetrabutylammonium bromide (2.38 g, 7.4 mmol) in acetone (100 ml) was refluxed for 12 hours at 80° C. with stirring. The solvent was evaporated off in vacuo and the residue was taken up in water (80 ml). The aqueous solution was extracted with chloroform (3×50 ml) and the organic layers combined, washed with water 2×50 ml), dried over Na2SO4 and evaporated in vacuo to give the title compound. The product was purified by column chromatography over flash silica gel using chloroform-methanol (99:1) as eluent; yield 8.00 g (65%) in oil. The hydrochloride salt was prepared by the method described above; mp 199-202° C.

reactant | 2,5-dioxopyrrolidine | 37.24 mmol, 3.68 g | O=C1NC(CC1)=O | C4H5NO2
reactant | 1-[4-(2-methoxyphenyl)-piperazin-1-yl]-3-chloropropane | 37.24 mmol, 10.0 g | COC1=C(C=CC=C1)N1CCN(CC1)CCCCl | C14H21ClN2O
reactant | potassium carbonate | 55.8 mmol, 7.70 g | C([O-])([O-])=O.[K+].[K+]
catalyst | tetrabutylammonium bromide | 7.4 mmol, 2.38 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-[4-(2-methoxyphenyl)piperazin-1-yl]-3-[2,5-dioxopyrrolidin-1-yl]propane | COC1=C(C=CC=C1)N1CCN(CC1)CCCN1C(CCC1=O)=O | C18H25N3O3
